US03969345
3α-Hydroxy-21-methoxy-5α-pregnane-11,20-dione (1.5 g.) in dry pyridine (7.5 ml.) was treated with toluene p-sulphonyl chloride (1.5 g.) at room temperature overnight. The reaction mixture was then partitioned between 2N-hydrochloric acid and chloroform, washed with water, dried (Na2SO4) and evaporated to give 21-methoxy-3α-(p-toluene sulphonyloxy)-5α-pregnane-11,20-dione (1.55 g.) as a foam.

reactant | 3α-Hydroxy-21-methoxy-5α-pregnane-11,20-dione | 1.5 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(COC)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C22H34O4
reactant | toluene p-sulphonyl chloride | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 7.5 ml | N1=CC=CC=C1 | C5H5N
product | 21-methoxy-3α-(p-toluene sulphonyloxy)-5α-pregnane-11,20-dione | 1.55 g | COCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)=O | C29H40O6S
